US04606909
Triacetin:
In vitro dissolution rates were determined according to Baggesen et al (1981). The rotation speed was 30±1 r.p.m. and the dissolution medium was 250 ml of 0.1M hydrochloric acid (pH 1.2) or citrate buffer (0.05M, pH 4.5 or 0.02M, pH 6.5) or phosphate buffer (0.05M, pH 7.5), maintained at 37±0.1° C. Release of active substance into the dissolution medium was determined by measuring the absorbance spectrophometrically at 320 nm (indomethacin), 271 nm (furosemide) or 278 nm (the isobestic point of acetylsalicylic acid/salicylic acid).

reactant | citrate | 0.05M, pH 4.5 | C(CC(O)(C(=O)[O-])CC(=O)[O-])(=O)[O-]
reactant | phosphate | 0.05M, pH 7.5 | P(=O)([O-])([O-])[O-]
reactant | indomethacin | CC1=C(C=2C=C(C=CC2N1C(=O)C=3C=CC(=CC3)Cl)OC)CC(=O)O | C19H16ClNO4
reactant | furosemide | C=1C=C(OC1)CNC2=CC(=C(C=C2C(=O)O)S(=O)(=O)N)Cl | C12H11ClN2O5S
reactant | acetylsalicylic acid salicylic acid | C(C)(=O)OC=1C(C(=O)O)=CC=CC1.C(C=1C(O)=CC=CC1)(=O)O
solvent | hydrochloric acid | 0.1M, 250 ml, pH 1.2 | Cl | ClH
product | Triacetin | CC(OCC(OC(C)=O)COC(C)=O)=O | C9H14O6
